US04125732
2-(p-tert-Butylphenoxy)-1-propanol
A solution of 6.6 g of 2-(p-tert-butylphenoxy)propionic acid in 25 ml of tetrahydrofuran is added dropwise to a chilled (5° C.) solution of 60 ml of 1M diborane in tetrahydrofuran. The mixture is stirred for 1 hr at 5° C. and at room temperature overnight. The mixture is poured onto 300 g of ice-water and extracted with ether. The ether extracts are dried (MgSO4) and concentrated under vacuum to give 5.5 g of product as a colorless liquid.

reactant | 2-(p-tert-butylphenoxy)propionic acid | 6.6 g | C(C)(C)(C)C1=CC=C(OC(C(=O)O)C)C=C1 | C13H18O3
reactant | diborane | 1M, 60 ml | B#B | B2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2-(p-tert-Butylphenoxy)-1-propanol | 5.5 g | C(C)(C)(C)C1=CC=C(OC(CO)C)C=C1 | C13H20O2
